US08168642B2
Preparation of ethyl 2-(thiazol-4-yl)-4-(2-chloro-4-fluorophenyl)-6-methyl-1,4-dihydro-pyrimidin-5-carboxylate
2 mmol 4-Thiazolyl formamidine (Diana, G. D., Yarinsky, A., Zalay, E. S., et al. J. Med. Chem. 1969, 12(9):791-793), 2 mmol 2-chloro-4-fluorobenzaldehyde, 2 mmol ethyl acetoacetate and 2.2 mmol sodium acetate were reacted under reflux in 10 ml anhydrous ethanol for 20 hr, concentrated, and then ethyl acetate and water were added to separate the layers. The ethyl acetate layer was dried over anhydrous sodium sulfate, and separated by a column chromatography to obtain 0.28 g of a yellow crystal (yield 37%) with mp 140-142° C.; 1H-NMR (400 MHz, DMSO-d6) δ 1.01-1.05 (3H, m); 2.49 (3H, s); 3.92-3.95 (2H, m); 5.99 (1H, s); 7.36-7.39 (3H, m); 8.15 (1H, d, J=1.96 Hz); 9.18 (1H, d, J=1.96 Hz); 9.47 (1H, s); MS (FAB) 380.2 (M+1).

reactant | 4-Thiazolyl formamidine | 2 mmol | S1C=NC(=C1)C(=N)N | C4H5N3S
reactant | 2-chloro-4-fluorobenzaldehyde | 2 mmol | ClC1=C(C=O)C=CC(=C1)F | C7H4ClFO
reactant | ethyl acetoacetate | 2 mmol | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium acetate | 2.2 mmol | C(C)(=O)[O-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | ethyl 2-(thiazol-4-yl)-4-(2-chloro-4-fluorophenyl)-6-methyl-1,4-dihydro-pyrimidin-5-carboxylate | 0.28 g, yield 37% | S1C=NC(=C1)C=1NC(=C(C(N1)C1=C(C=C(C=C1)F)Cl)C(=O)OCC)C | C17H15ClFN3O2S
